US03975375
C. N-acetyl-imidazolid-2-one ##SPC11##
23.6 parts by weight of acetyl chloride in 100 parts by volume of tetrahydrofurane were added dropwise over the course of 60 minutes to a suspension of 25.8 parts by weight of imidazol-2-one in 350 parts by volume of dry tetrahydrofurane at 0° C. The mixture was stirred for 3 hours at room temperature, dry air was subsequently blown through the solution for some time, the solvent was then removed in vacuo and the residue was recrystallized from boiling nitromethane.

reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | imidazol-2-one | N=1C(N=CC1)=O | C3H2N2O
solvent | tetrahydrofurane | O1CCCC1 | C4H8O
product | N-acetyl-imidazolid-2-one | C(C)(=O)N1C(NCC1)=O | C5H8N2O2
